US06916822B2
(j) 2-(4-Isobutyloxycarbonylbenzyl)phenol
2-(4-Carboxybenzyl)phenol (603 mg) was dissolved in isobutanol (3 ml), added with sulfuric acid (0.6 ml) and stirred at 80° C. for 3 hours. The reaction mixture was added with water (5 ml) and extracted twice with ethyl acetate (5 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (elution solvent: hexane:ethyl acetate=5:1) to obtain 318 mg of the title compound. Yield: 42%.

reactant | 2-(4-Carboxybenzyl)phenol | 603 mg | C(=O)(O)C1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C14H12O3
reactant | sulfuric acid | 0.6 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 5 ml | O | H2O
solvent | isobutanol | 3 ml | C(C(C)C)O | C4H10O
product | 2-(4-Isobutyloxycarbonylbenzyl)phenol | 318 mg, Yield: 42% | C(C(C)C)OC(=O)C1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C18H20O3
